US06977263B2
{5-[1-(4-{3-[N,N-Bis-(tert-butoxycarbonyl)amino-methyl]-phenyl}-piperidin-1-yl)-methanoyl]-pyridin-3-yl}-pyridin-3-ylmethyl-carbamic acid dimethyl-ethyl ester (0.0250 g, 0.0356 mmol) was treated with 5-6 M HCl in isopropanol (1.0 mL, 8.0 mmol) and stirred at ambient temperature. After 90 minutes the reaction mixture was diluted with methyl alcohol (0.5 mL) and stirring was continued for an additional 75 minutes. Dripping the reaction solution into ether (40 mL) with vigorous stirring afforded a white precipitate which was collected by filtration, washed with fresh ether (3.0 mL), and dried to afford 1-[4-(3-aminomethyl-phenyl)-piperidin-1-yl]-1-{5-[(pyridin-3-ylmethyl)-amino]-pyridin-3-yl}-methanone tetrahydrochloride (0.0160 g): 1H NMR (300 MHz, DMSO-d6) δ 8.60-8.95 (m, 2H), 8.39 (br s, 2H), 8.29 (d, J=8.0 Hz, 1H), 7.97-8.25 (m, 2H), 7.65-7.85 (m, 2H), 7.47 (d, J=8.0 Hz, 2H), 7.20-7.38 (m, 3H), 4.63 (s, 2H), 4.43-4.61 (m partially obscured, 1H), 4.00 (AB q, J=5.8 Hz, 2H), 3.05-3.25 (m partially obscured, 1H), 2.72-2.95 (m, 2H), 1.80-1.88 (m, 1H), 1.47-1.77 (m, 3H); MS (CI) m/z 402 (M+H).

reactant | {5-[1-(4-{3-[N,N-Bis-(tert-butoxycarbonyl)amino-methyl]-phenyl}-piperidin-1-yl)-methanoyl]-pyridin-3-yl}-pyridin-3-ylmethyl-carbamic acid dimethyl-ethyl ester | 0.0356 mmol, 0.0250 g | CC(C)(C)OC(N(CC=1C=NC=CC1)C=1C=NC=C(C1)C(=O)N1CCC(CC1)C1=CC(=CC=C1)CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C39H51N5O7
reactant | HCl | 5-6 M | Cl | ClH
reactant | isopropanol | 8.0 mmol, 1.0 mL | C(C)(C)O | C3H8O
reactant | ether | 40 mL | CCOCC | C4H10O
solvent | methyl alcohol | 0.5 mL | CO | CH4O
product | 1-[4-(3-aminomethyl-phenyl)-piperidin-1-yl]-1-{5-[(pyridin-3-ylmethyl)-amino]-pyridin-3-yl}-methanone tetrahydrochloride | 0.0160 g | Cl.Cl.Cl.Cl.NCC=1C=C(C=CC1)C1CCN(CC1)C(=O)C=1C=NC=C(C1)NCC=1C=NC=CC1 | InChI=1S/C24H27N5O.4ClH/c25-13-18-3-1-5-21(11-18)20-6-9-29(10-7-20)24(30)22-12-23(17-27-16-22)28-15-19-4-2-8-26-14-19;;;;/h1-5,8,11-12,14,16-17,20,28H,6-7,9-10,13,15,25H2;4*1H
